spice
* SPICE Netlist

* Voltage source
VDD VDD 0 DC 1.8

* Input voltage source
VIN Vin 0 DC 0

* NMOS Transistor
M1 VDD Vin 1 1 NMOS

* Current Source
I1 1 0 DC 1

* Capacitor
C1 1 2 1uF

* Load Resistor
RL 2 0 50

* Model definition
.model NMOS NMOS

* Simulation commands
.tran 1n 100n
.end